US04335247
Dissolved in tetrahyrofuran were 6.6 g of t-butyoxycarbonyl-DL-threonine and 3.1 g of triethylamine, to which was added dropwise 3.3 g of ethyl chlorocarbonate at 0° C. After stirring for two hours, 3.1 g of 2-amino-1,3,4-thiadiazole was added, and stirred at room temperature for further 20 hours. The reaction solution was concentrated under a reduced pressure, water was added to the residue, and the precipitates were collected by filtration to obtain 7.2 g (Yield 80%) of 2-(t-butoxycarbonyl-DL-threonyl)amino-1,3,4-thiadiazole as white crystals having a melting point of from 165° to 172° C. (dec.).

reactant | t-butyoxycarbonyl-DL-threonine | 6.6 g | C(C)(C)(C)OC(=O)NC(C(O)C)C(=O)O | C9H17NO5
reactant | triethylamine | 3.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 3.3 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-amino-1,3,4-thiadiazole | 3.1 g | NC=1SC=NN1 | C2H3N3S
solvent | tetrahyrofuran | O1CCCC1 | C4H8O
product | 2-(t-butoxycarbonyl-DL-threonyl)amino-1,3,4-thiadiazole | 7.2 g, Yield 80% | C(C)(C)(C)OC(=O)NC(C(O)C)C(=O)NC=1SC=NN1 | C11H18N4O4S
